US07767674B2
[4-(3-Amino-phenyl)-piperidin-1-yl]-(2,6-dichloro-phenyl)-methanone
To an ice-cooled solution of 4-(3-aminophenyl)-piperidine hydrochloride (250.2 mg, 1.0 mmol) and triethylamine (1 mL) in dichloromethane (6 mL) is added 2,6-dichlorobenzoic chloride (0.15 mL, 1.0 mmol). The reaction mixture is stirred at 0° C. for 6 hours. After removal of solvent, the residue is purified on a silica gel chromatography with ethyl acetate-hexanes to provide a white solid (163.9 mg, 46.9% yield, ES+(m/z) 349.1 [M+H]).

reactant | 4-(3-aminophenyl)-piperidine hydrochloride | 1.0 mmol, 250.2 mg | Cl.NC=1C=C(C=CC1)C1CCNCC1
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | 2,6-dichlorobenzoic chloride | 1.0 mmol, 0.15 mL | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | [4-(3-Amino-phenyl)-piperidin-1-yl]-(2,6-dichloro-phenyl)-methanone | 46.9% yield | NC=1C=C(C=CC1)C1CCN(CC1)C(=O)C1=C(C=CC=C1Cl)Cl | C18H18Cl2N2O
